US07521446B2
((1S)-1-Phenylethyl)(1,4-dioxaspiro[4.5]dec-8-yl)amine
1,4-Dioxaspiro[4.5]decan-8-one (10 g, 64.03 mmol) was dissolved in dry dichloroethane (300 mL) under an atmosphere of nitrogen. (1S)-1-phenylethylamine (8.96 mL, 70.43 mmol) was added neat at room temperature followed by sodium triacetoxyborohydride (20.36 g, 96.04 mmol) neat in small portions. The reaction was stirred at room temperature overnight. The reaction was quenched by the addition of distilled water (200 mL). The phases were separated and the aqueous phase was extracted with dichloromethane. The combined organic phases were dried over sodium sulfate. The filtrate was concentrated under reduced pressure. A yellow oil was obtained of satisfactory purity based on (11.2 g, 67% yield). M+1: 262.

reactant | 1,4-Dioxaspiro[4.5]decan-8-one | 64.03 mmol, 10 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | (1S)-1-phenylethylamine | 70.43 mmol, 8.96 mL | C1(=CC=CC=C1)[C@H](C)N | C8H11N
reactant | sodium triacetoxyborohydride | 96.04 mmol, 20.36 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 300 mL | ClC(C)Cl | C2H4Cl2
product | ((1S)-1-Phenylethyl)(1,4-dioxaspiro[4.5]dec-8-yl)amine | 67% yield | C1(=CC=CC=C1)[C@H](C)NC1CCC2(OCCO2)CC1 | C16H23NO2
